US07435751B2
Step 2: Preparation of 7-fluoro-1-(2-fluoro-ethyl)-1,3-dihydro-indol-2-one
7-Fluoro-1-(2-fluoro-ethyl)-1H-indole-2,3-dione (1.04 g, 4.92 mmol) is heated with neat hydrazine hydrate (10 ml) at 130° C. for 20 minutes. The mixture is cooled, diluted with ice water and extracted with ethyl acetate. The extract is washed with brine, dried (Na2SO4), and evaporated to give the title compound as a brown solid. HPLC r.t. 4.36 min; MS for C10H9F2NO m/z 198.1 (M+H)+.

reactant | 7-Fluoro-1-(2-fluoro-ethyl)-1H-indole-2,3-dione | 4.92 mmol, 1.04 g | FC=1C=CC=C2C(C(N(C12)CCF)=O)=O | C10H7F2NO2
solvent | hydrazine hydrate | 10 ml | O.NN
product | 7-fluoro-1-(2-fluoro-ethyl)-1,3-dihydro-indol-2-one | FC=1C=CC=C2CC(N(C12)CCF)=O | C10H9F2NO
